Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Cough, vomiting, fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with history of
lymphoplasmacytic lymphoma and IgG kappa MGUS c/b kidney injury
now C5D16 (treated yesterday) BDR (bendamustine, dexamethasone,
rituxan) who presents with fever. 

He had URI symptoms one week ago with a fever. He had viral 
panel
and CXR that were negative. He had been getting better over the
last several days. However, he had chemotherapy the day prior to
admission. Following this he started to feel sick again, similar
to his prior symptoms. He reports cough with yellow sputum
production, nasal congestion, and headache. He notes decreased 
PO
intake over the last few days. He had a fever the day of
admission to 100.8. He also had nausea with three episodes of
___ vomiting.

On arrival to the ED, initial vitals were 99.9 108 119/79 18 94%
RA. Labs were notable for WBC 26.7 (PMNs 93.7%, lymphs 0.6%), 
H/H
12.4/38.7, Plt 172, Na 135, BUN/Cr ___ -> ___, ALT 133, 
AST
128, ALP 174, Tbili 1.1, lactate 3.1 -> 2.1, UA negative, and
influenza PCR negative. CXR was negative for pneumonia. Patient
was given pantoprazole 40mg PO, Zofran 4mg IV, azithromycin 
500mg
PO, Tylenol 1g PO, and 2L NS. Vitals prior to transfer were 99.2
84 101/53 16 96% RA.

On arrival to the floor, he reports that he is feeling much
better. He has more energy. He believes that he was dehydrated.
He denies headache, neck stiffness, sore throat, shortness of
breath, chest pain, abdominal pain, diarrhea, hematuria, and
dysuria.

REVIEW OF SYSTEMS: A complete ___ review of systems was
performed and was negative unless otherwise noted in the HPI.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
This patient was seen by PCP with an elevated creatinine in 
___
and was referred to Dr. ___ from ___ here at
___. The patient had a new diagnosis of kidney disease
with an elevated creatinine from ___ in ___. Initial
Ptn/Creat ratio was as high as 2.4. The patient also had a renal
ultrasound done on ___ that showed that both kidneys
appeared normal.   UPEP and urine IFE showed MULTIPLE PROTEIN
BANDS SEEN, WITH ALBUMIN ___ KAPPA 
DETECTED
REPRESENTED ROUGHLY 15% OF URINARY PROTEIN BASED ON THIS 
SAMPLE'S
PROTEIN/CREATININE RATIO AND ASSUMING DAILY CREATININE EXCRETION
OF 1000 MG THIS PATIENT'S ___ EXCRETION wAS estimated at
15% * 1.6 * 1000 = 240 MG/DAY. Based on this pt was referred to
us to r.o MM. We did not have prior lab data to compare. Serum
IFE demonstrated IgG Kappa M ptn with 0.7gm/dl of protein. He 
had
a negative skeletal survey on ___.  His free kappa lambda
ratio was 12.82 with a ___ microglobulin of 4.49. The patient
was not anemic, did not show any evidence of hypercalcemia.
- BM biopsy performed on ___ demonstrated hyperellular
marrow with kappa restricted lymphoplasmacytic lymphoma with pos
MYD88 mutation detection. No plasma cell dyscrasia seen.
- ___: CT scans of the chest/abd/pelvis did not demonstrate 
and
adenopathy. Mild splenomegaly 13.2 cm was noted. Renal biopsy 
was
recommended by us to the nephrology team.
- ___: Underwent renal biopsy that demonstrated  acute on
chronic tubular injury, likely from the patient's known
___ proteinuria. Case was reviewed by hemepath who saw
evidence of lymphoplasmacytic lymphoma in the biopsy specimen 
but
this was felt to be a fragment of an inadvertently sampled LN
rather than actual renal involvement with lymphoma. Case
discussed with Dr ___ recommended treatment of the 
lymphoma
that was causing the ptnuria from acute on chronic tubular
injury. This was reflective of the nephrology team consensus.
- Given absence of symptomatic systemic lymphoma, it was decide
to start treatment with single agent Rituximab.
- ___ and ___ rcd 4 weekly doses of Rituxan.
- ___: PET demonstrated no e.o lymphoma or lytic lesions.  
- ___: Evaluated by Nephrology and felt to have improvement in
ptnuria which was lower at 1.3 compared to ___ previously.
Additionally the percent/amount of ___ proteinuria was
less than previous values, but not completely negative. However
continued to have glycosuria, hypouricemia, and hypophosphatemia
indicating continued proximal tubule wasting. With so little
___ protein in the urine, it was unclear if there is
ongoing injury with this small amount. 
- ___: Case discussed again and felt that we should add Velcade
and Dex to the regimen.  
- ___: Started on BDR regimen (Velcade/Dex and Rituximab) for
treatment of ongoing light chain proximal tubulopathy. Ptn/Creat
ratio was 1.6 gm/day before starting Velcade.
- Rcd Velcade at 1.3 mg/m2 IV on days 1,___ and ___. Tolerated
cycle 1 very well with no complications.  
- ___: Ptn/creat ration decreased to 1gm/day after cycle 1 of
Velcade. Rcd cycle 2 of BDR in which rcd Velcade given at 1.6
mg/m2 and Dex ___ mg along with Rituxan on days 1,___ and ___.
LFT's were elevated during course of Tx. Lipitor held. 
- Course complicated by brief episodes of dizziness and diarrhea
after Velcade doses for a few hours that resolved by itself.
- ___: Ptn/Creat ratio improved to 0.7 gm/day. Given episodes 
of
hypotension/dizziness post Velcade administration and concern 
for
autonomic neuropathy sec to Velcade , dose of Velcade was 
reduced
to 1.3 mg/m2 and cycle 3 administered. Tolerated well with
reduction in dose. 
- ___: Ptn/Creat ratio improved to 0.7 gm/day. Given
neuropathy,dose of Velcade was reduced further to 0.7 mg/m2 and
cycle 4 administered. Tolerated it well with reduction in dose.
 
PAST MEDICAL HISTORY:
1. Small colonic benign adenomatous polyp for which he will have
a repeat colonoscopy in ___ years.
2. Obstructive sleep apnea for which he wears a CPAP for the 
last
___ years.
3. Anxiety, on Celexa.
4. Bilateral hip bursitis.
5. Rare ocular migraines.
6. Hyperlipidemia.
7. Status post appendectomy in ___.
8. Status post cholecystectomy about five to ___ years ago.
9. New diagnosis of hypertension for which he is on amlodipine.
 
Social History:
___
Family History:
Not available as the patient is adopted.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=================
VS: Temp 99.2, BP 110/64, HR 71, RR 18, O2 sat 96% RA.
GENERAL: Pleasant man, in no distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: Alert, oriented, good attention and linear thought, CN
___ intact. Strength full throughout.
SKIN: No significant rashes.
 
DISCHARGE PHYSICAL EXAM
==================
VS: 99.2 Tmax 101.8 at midnight ___ BP 118/76 HR 74 RR 16 
97%RA
 
GENERAL: Pleasant man, in no distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, normal s1/s2, no m/r/g.
LUNG: Lungs CTA bilaterally. No wheezing, rales or rhonchi. 
ABD: NABS. Abd soft, nontender, nondistended, no
hepatomegaly, no splenomegaly. No rebound or guarding.
EXT: Warm, well perfused,2+ DP pulses
NEURO: Alert, oriented, good attention and linear thought, CN
___ intact. Strength full throughout.
SKIN: No significant rashes.
 
Pertinent Results:
LABS ON ADMISSION
=============
___ 10:20AM BLOOD ___ 
___ Plt ___
___ 10:20AM BLOOD ___ 
___ Im ___ 
___
___ 10:20AM BLOOD Plt ___
___ 10:20AM BLOOD ___ 
___
___ 10:20AM BLOOD ___
___ 10:20AM BLOOD ___
___ 10:20AM BLOOD ___ B ___ 
___

NOTABLE LABS
=========
___ 10:20AM BLOOD ___ 
___ Plt ___
___ 05:21PM BLOOD ___ 
___ Plt ___
___ 06:40AM BLOOD ___ 
___ Plt ___
___ 10:20AM BLOOD ___ 
___ Im ___ 
___
___ 05:21PM BLOOD ___ 
___ Im ___ 
___
___ 10:20AM BLOOD ___
___ 05:21PM BLOOD ___ 
___
___ 07:03PM BLOOD ___
___ 06:40AM BLOOD ___
___ 06:40AM BLOOD ___
___ 10:20AM BLOOD ___ B ___ 
___
___ 05:32PM BLOOD ___
___ 08:16PM BLOOD ___
___ 07:11AM BLOOD ___

LABS ON DISCHARGE
=============
___ 06:40AM BLOOD ___ 
___ Plt ___
___ 05:21PM BLOOD ___ 
___ Im ___ 
___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD ___ 
___
___ 06:40AM BLOOD ___
___ 06:40AM BLOOD ___
___ 05:21PM BLOOD ___
___ 06:40AM BLOOD ___
___:11AM BLOOD ___

IMAGING
======
CXR PA & LATERAL (___)
FINDINGS: 
No focal consolidation is seen.  There is no pleural effusion or 
pneumothorax.
The cardiac and mediastinal silhouettes are stable.  Hilar 
contours are
stable.
 
IMPRESSION: 
No acute cardiopulmonary process.  No focal consolidation to 
suggest
pneumonia.

MICROBIOLOGY
==========
GENERAL URINE INFORMATION
Urine ColorYellow  W
Urine AppearanceClear  W
Specific Gravity1.0281.001 - 1.035W
DIPSTICK URINALYSIS
BloodSM  W
NitriteNEG  W
Protein100 mg/dLW
Glucose300 mg/dLW
KetoneNEG mg/dLW
BilirubinNEG mg/dLW
UrobilinogenNEG0.2 - 1mg/dLW
pH6.05 - 8unitsW
LeukocytesNEG  W
MICROSCOPIC URINE EXAMINATION
RBC10 - 2#/hpfW
WBC10 - 5#/hpfW
BacteriaNONE  W
YeastNONE  W
Epithelial Cells<1 #/hpfW
URINE CASTS
Hyaline Casts2*0 - 0#/lpfW
OTHER URINE FINDINGS
Urine MucousRARE  W

___ 7:03 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 5:21 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 7:44 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 5:45 pm Rapid Respiratory Viral Screen & Culture      
3. 

   Respiratory Viral Culture (Preliminary): 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 
__________________________________________________________
___ 12:00 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 

 
Brief Hospital Course:
Mr. ___ is a ___ male with history of 
lymphoplasmacytic lymphoma and IgG kappa MGUS c/b kidney injury 
now C5D18 (treated day prior to admission) BDR (bortezomib, 
dexamethasone, rituxan) who presented with fever and 
leukocytosis. During the course of his hospital stay, the 
following issues were addressed: 

# Fever/Cough: Patient with fever and URI symptoms most likely 
consistent with viral infection. Influenza and Respiratory viral 
screen were negative. CXR with no active infiltrate. Lactate was 
initially elevated at 3.1 but downtrended overnight with IVF to 
1.6 on discharge. Patient was discharged with a ___ course of 
azithromycin for empiric coverage of possible bacterial 
superinfection.

# Transaminitis: Initial ALT 133 and AST 128, ALP 174 (but 
specimen hemolyzed). Immediate ___ labs with ALT of 103, 
AST 68, andALP 151. Overnight there was a slight improvement 
with ALT of 97, AST 56 and ALP 149 coinciding with IV fluid 
administration, Patient has had intermittent transaminitis in 
past and has never had bx per OMR. ALT and AST down from 
admission with fluid administration.

# Leukocytosis: WBC 26.7 on admission. Secondary to infection as 
above vs. steroids received yesterday with chemotherapy. 
Downtrended to 12.9 on discharge.

# ___ on CKD: Patient presented with Cr 1.8 up from baseline 
1.5. Improved after IVF to baseline. Creatinine on discharge was 
1.6. 

# Hypertension.  Held lisinopril in setting of ___. Normotensive 
during hospital stay.

# Anxiety. Continued citalopram. Continued Ativan prn.

TRANSITIONAL ISSUES
==============
- Azithromycin 5 day course (Start ___ | End ___
- Holding lisinopril due to ___ (Cr at discharge at baseline of 
1.6). Will need to be restarted with primary oncologist/PCP
- ___ viral culture pending
- If patient spikes fevers during next cycle of BDR, then we 
know this is more likely a reaction to chemotherapy.
- Transaminitis: Patient has had intermittent transaminitis in 
past; has never had bx. ALT and AST down from admission with 
fluid administration. Consider further ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO BID 
2. Lisinopril 2.5 mg PO DAILY 
3. Citalopram 20 mg PO DAILY 
4. Dapsone 100 mg PO DAILY 
5. LORazepam 0.5 mg PO QHS:PRN insomnia 
6. Pantoprazole 40 mg PO Q24H 
7. Prochlorperazine 10 mg PO Q8H:PRN nausea/vomiting 
8. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
9. Docusate Sodium 100 mg PO BID:PRN constipation 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 4 Days 
RX *azithromycin 250 mg 1 tablet(s) by mouth Daily Disp #*3 
Tablet Refills:*0 
2.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0 
3.  GuaiFENesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin 100 mg/5 mL ___ ml by mouth Q6 Refills:*0 
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  Acyclovir 400 mg PO BID  
6.  Citalopram 20 mg PO DAILY  
7.  Dapsone 100 mg PO DAILY  
8.  Docusate Sodium 100 mg PO BID:PRN constipation  
9.  LORazepam 0.5 mg PO QHS:PRN insomnia  
10.  Pantoprazole 40 mg PO Q24H  
11.  Prochlorperazine 10 mg PO Q8H:PRN nausea/vomiting  
12. HELD- Lisinopril 2.5 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you discuss with your primary 
oncologist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
=====
Lymphoplasmacytic lymphoma with IgG kappa MGUS 
URI
Acute on Chronic Kidney Disease

Secondary
=======
Hypertension
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure caring for you here at ___. You presented 
with a fever of 100.8 , cough and 3 days of vomiting. You did 
well in the hospital and were discharged with a ___ course of 
antibiotics to cover for a possible bacterial infection on top 
of what is likely a viral respiratory infection. Please take 
azithromycin for 3 more days and do not take your lisinopril 
until discussing with Dr. ___.

If you experience any of the danger signs below, please contact 
your oncologist or come to the emergency department.

Best Wishes,

Your ___ Care Team
 
Followup Instructions:
___